US08008307B2
Step a: 7-Chloro-2-phenyl[1,3]oxazolo[5,4-d]pyrimidine
A mixture of 5-amino-4,6-dichloropyrimidine (1.05 g, 0.00640 mol) and benzoyl chloride (0.89 mL, 0.0077 mol) was subjected to microwave irradiation (100° C.) for 2 hours. The reaction was cooled and the residue was triturated with diethyl ether, filtered and collected to obtain 1.15 g (77.5%) of a yellow solid. LC/MS: Rt=1.84 min, ES+ 232.19 (AA standard).

reactant | 5-amino-4,6-dichloropyrimidine | 0.00640 mol, 1.05 g | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | benzoyl chloride | 0.0077 mol, 0.89 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 7-Chloro-2-phenyl[1,3]oxazolo[5,4-d]pyrimidine | 1.15 g, 77.5% | ClC=1C2=C(N=CN1)OC(=N2)C2=CC=CC=C2 | C11H6ClN3O
